US05250690
2-(4-(Methoxymethoxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide
A mixture of 2.91 g (9.3 mmol) of 2-bromo-N-(4-(trifluoromethoxy)phenyl)propanamide, 1.58 g (10 mmol) of 4-(methoxymethoxy)phenol, 1.52 g (11 mmol) of powdered, anhydrous potassium carbonate and 35 ml of acetonitrile was warmed, under N2, at reflux for a period of 5.5 hours and then stirred at room temperature overnight. The resulting mixture was poured into water and extracted with two portions of ether. The combined organic layers were washed twice with 5 percent aqueous NaOH, treated with charcoal and MgSO4, filtered and the filtrates evaporated to dryness. The residue was recrystallized from hexane to leave 1.77 g (49 percent of theoretical) of the above-named product as a colorless solid, m.p. 115°-116° C. The product is identified on the basis of IR and NMR analyses.

reactant | 2-bromo-N-(4-(trifluoromethoxy)phenyl)propanamide | 9.3 mmol, 2.91 g | BrC(C(=O)NC1=CC=C(C=C1)OC(F)(F)F)C | C10H9BrF3NO2
reactant | 4-(methoxymethoxy)phenol | 10 mmol, 1.58 g | COCOC1=CC=C(C=C1)O | C8H10O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 35 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-(4-(Methoxymethoxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide | COCOC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C)C=C1 | C18H18F3NO5
